US08791161B2
3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)thio]-N,N-dimethylpropanamide
Following General Procedure B, the title compound (476 mg, 75%) was prepared from 3-((2-amino-4-chlorophenyl)thio)-N,N-dimethylpropanamide (364 mg, 1.42 mmol) and 4-chloro-2-fluorobenzene-1-sulfonyl chloride (325 mg, 1.42 mmol) in pyridine (5 ml).

reactant | 3-((2-amino-4-chlorophenyl)thio)-N,N-dimethylpropanamide | 1.42 mmol, 364 mg | NC1=C(C=CC(=C1)Cl)SCCC(=O)N(C)C | C11H15ClN2OS
reactant | 4-chloro-2-fluorobenzene-1-sulfonyl chloride | 1.42 mmol, 325 mg | ClC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3Cl2FO2S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)thio]-N,N-dimethylpropanamide | 476 mg, 75% | ClC1=CC(=C(C=C1)SCCC(=O)N(C)C)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C17H17Cl2FN2O3S2
